US09233985B2
A solution of tert-butyl 4-allyl-3-[(2-nitrophenyl)carbamoyl]-3-[(trifluoroacetyl)amino]pyrrolidine-1-carboxylate (0.816 g, 1.68 mmol) in methanol (30 mL) was treated with ammonium chloride (0.897 g, 16.8 mmol) and zinc (2.19 g, 33.5 mmol). After stirring at room temperature for 40 min, the mixture was diluted with ethyl acetate (30 mL) and filtered through a pad of Celite. The pad was washed with ethyl acetate and the filtrate was concentrated under reduced pressure. The residue was re-diluted with ethyl acetate (25 mL) and water (20 mL), and the layers were separated. The organic phase was washed with water (10 mL) and saturated aqueous sodium chloride (10 mL), dried over Na2SO4 and concentrated and dried under high vacuum for ˜2 h to give the tert-butyl 4-allyl-3-[(2-aminophenyl)carbamoyl]-3-[(trifluoroacetyl)amino]pyrrolidine-1-carboxylate intermediate (760 mg, 3:2 mixture of diastereomers) as a off-white foam that was used without further purification.

reactant | tert-butyl 4-allyl-3-[(2-nitrophenyl)carbamoyl]-3-[(trifluoroacetyl)amino]pyrrolidine-1-carboxylate | 1.68 mmol, 0.816 g | C(C=C)C1C(CN(C1)C(=O)OC(C)(C)C)(NC(C(F)(F)F)=O)C(NC1=C(C=CC=C1)[N+](=O)[O-])=O | C21H25F3N4O6
reactant | ammonium chloride | 16.8 mmol, 0.897 g | [Cl-].[NH4+]
solvent | methanol | 30 mL | CO | CH4O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 33.5 mmol, 2.19 g | [Zn] | Zn
product | tert-butyl 4-allyl-3-[(2-aminophenyl)carbamoyl]-3-[(trifluoroacetyl)amino]pyrrolidine-1-carboxylate | 760 mg | C(C=C)C1C(CN(C1)C(=O)OC(C)(C)C)(NC(C(F)(F)F)=O)C(NC1=C(C=CC=C1)N)=O | C21H27F3N4O4
